US06133271
Following the procedure of Example 97, the reaction of 1,2,4-triazole with 2-chloro-6-nitro-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(1,2,4-triazol-1-yl)-6-nitro-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 2-chloro-6-nitro-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC(=CC=C2)[N+](=O)[O-] | C13H8ClN5O4S
product | 2-(1,2,4-triazol-1-yl)-6-nitro-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CN=C1)C=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC(=CC=C2)[N+](=O)[O-] | C15H10N8O4S
